US07534887B2
tert-Butyl 3-oxopiperazine-1-carboxylate (1.5 g) was dissolved in DMF (50 mL), and sodium hydride (0.3 g) was added thereto. With ice cooling, N-(4-chloromethyl-3-methyl-1,3-thiazol-2(3H)-ylidene)-N-methylamine hydrochloride (1.6 g) was added thereto, and the mixture was mixed at 80° C. for 3 hours. The solvent was distilled off, and the residue was poured into water, then extracted with chloroform, and the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off to give 1-(((2Z)-3-methyl-2-(methylimino)-2,3-dihydro-1,3-thiazol-4-yl)methyl)-2-piperazinone (1.7 g) as a pale brown oily matter (a crude product). The resulting oily matter was dissolved in concentrated hydrochloric acid (5 mL) and mixed at room temperature for 1 hour. After concentrating the reaction solution, the residue was dissolved in dichloromethane (30 mL), and triethylamine (1.4 mL) was added thereto. With ice cooling, 3-((6-chloro-2-naphthyl)sulfonyl)propionic acid (1.5 g), HOBt (0.84 g) and WSC (1.0 g) were added thereto, and the mixture was mixed at room temperature for 16 hours. The reaction solution was basified with an aqueous potassium carbonate solution, then extracted with chloroform, and the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified with a basic silica gel column to give the title compound (0.25 g) as a colorless powder.

reactant | tert-Butyl 3-oxopiperazine-1-carboxylate | 1.5 g | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | N-(4-chloromethyl-3-methyl-1,3-thiazol-2(3H)-ylidene)-N-methylamine hydrochloride | 1.6 g | Cl.ClCC=1N(C(SC1)=NC)C
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(((2Z)-3-methyl-2-(methylimino)-2,3-dihydro-1,3-thiazol-4-yl)methyl)-2-piperazinone | 1.7 g | CN1/C(/SC=C1CN1C(CNCC1)=O)=N/C | C10H16N4OS
